US09302996B2
1,4-Dioxane (32 mL) was added to ethyl 1-{[(5-bromo-4-methylpyridin-2-yl)oxy]-methyl}cyclobutanecarboxylate (1.6 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (1.24 g), palladium chloride (dppf) methylene chloride complex (170 mg) and potassium acetate (1.44 g), and the mixture was stirred under nitrogen atmosphere at 100° C. for 4 hours. To the reaction mixture were added ethyl acetate and water to extract the objective compound. The organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 80:20) to obtain ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)cyclobutanecarboxylate (1.30 g).

reactant | 1,4-Dioxane | 32 mL | O1CCOCC1 | C4H8O2
reactant | ethyl 1-{[(5-bromo-4-methylpyridin-2-yl)oxy]-methyl}cyclobutanecarboxylate | 1.6 g | BrC=1C(=CC(=NC1)OCC1(CCC1)C(=O)OCC)C | C14H18BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.24 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.44 g | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)cyclobutanecarboxylate | 1.30 g | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CCC1)C(=O)OCC | C20H30BNO5
